US05693635
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-N-[(dimethylamino)methyl]-2-methylbenzamide
To a suspension of 14 mg of 60% sodium hydride in oil, in 2 ml of tetrahydrofuran is added 0.13 g of N-[4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methylbenzamide. The reactants are stirred for 1 hour and 62 mg of N,N-dimethyl-methylene ammonium iodide added followed by stirring for 2 hours. The mixture is diluted with 10 ml of ether and filtered. The filtrate is evaporated in vacuo to a residue which is stirred with hexanes to give 0.13 g of the desired product as a white solid, m.p. 131°-133° C.

reactant | sodium hydride | 14 mg | [H-].[Na+]
reactant | N-[4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methylbenzamide | 0.13 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C29H24N2O2
reactant | N,N-dimethyl-methylene ammonium iodide | 62 mg | [I-].C[N+](C)=C
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ether | 10 ml | CCOCC | C4H10O
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-N-[(dimethylamino)methyl]-2-methylbenzamide | 0.13 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)N(C(C3=C(C=CC=C3)C)=O)CN(C)C | C32H31N3O2
